US06787541B1
Phenyl 2-trifluoromethylthieno[3,2-d]pyrimidin-4-ylmethanone oxime (Example 22)
A solution of phenyl 2-trifluoromethylthieno[3,2-d]pyrimidin-4-ylmethanone (60 mg, 0.19 mmol) and hydroxylamine hydrochloride (0.04 g, 0.58 mmol) in pyridine (2 mL) was refluxed for 1 h, concentrated in vacuo, treated with toluene (2 mL), concentrated in vacuo and the resulting solid dissolved in EtOAc (5 mL), washed with water (3 mL) and concentrated in vacuo to give the title compound (62 mg, 98%), a mixture of geometrical isomers, as an oily solid.

reactant | phenyl 2-trifluoromethylthieno[3,2-d]pyrimidin-4-ylmethanone | 0.19 mmol, 60 mg | C1(=CC=CC=C1)C(=O)C=1C2=C(N=C(N1)C(F)(F)F)C=CS2 | C14H7F3N2OS
reactant | hydroxylamine hydrochloride | 0.58 mmol, 0.04 g | Cl.NO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | Phenyl 2-trifluoromethylthieno[3,2-d]pyrimidin-4-ylmethanone oxime | 62 mg, 98% | C1(=CC=CC=C1)C(=NO)C=1C2=C(N=C(N1)C(F)(F)F)C=CS2 | C14H8F3N3OS
